US08470847B2
5.1: 6-Chloro-2-[(pyridin-2-ylmethyl)amino]nicotinic acid
4 g of 2,6-dichloronicotinic acid (20.83 mmol, Aldrich) and 10.74 ml of 2-(aminomethyl)pyridine (104.17 mmol) are placed in an 80 ml sealed tube containing 40 ml of tert-butanol. The mixture is heated at 100° C. overnight and evaporated to dryness. The residue is taken up in water and the mixture is acidified by pouring in an aqueous solution of acetic acid at 10%. The precipitate is isolated by filtration and, after drying in an oven under a reduced vacuum, 4.35 g of expected product are obtained in the form of a yellow powder (yield=79%).

reactant | 2,6-dichloronicotinic acid | 20.83 mmol, 4 g | ClC1=C(C(=O)O)C=CC(=N1)Cl | C6H3Cl2NO2
reactant | 2-(aminomethyl)pyridine | 104.17 mmol, 10.74 ml | NCC1=NC=CC=C1 | C6H8N2
solvent | tert-butanol | 40 ml | C(C)(C)(C)O | C4H10O
product | 6-Chloro-2-[(pyridin-2-ylmethyl)amino]nicotinic acid | yield=79% | ClC1=NC(=C(C(=O)O)C=C1)NCC1=NC=CC=C1 | C12H10ClN3O2
